US07208493B2
6-Bromomethyl-2,4-pteridinediamine
To the solution of dibromotriphenylphosphine (2.4337 g, 5.76 mmol) of 2 ml anhydrous N,N-dimethylacetamide was added (2,4-Diamino-Pteridin-6-yl)-methanol hydrobromide (335.8 mg, 1.747 mmol). The mixture is the stirred at RT for overnight. The solution was treated with benzene. The filtered solid was then successively treated with benzene and ether and evaporate the remaining solid. The residue was dissolved in minimum 48% HBr at RT which then was added MeCN to give a tan solid precipitate. Collect the solid in ice water bath and wash it with MeCN and ether. 352 mg product was obtained. Yield 60%; 1H NMR (500 MHz, DMSO-d6): δ 4.86021(s, 2H), 9.01 (s, 1H), 9.15 (s, 2H), 9.22 (s, 2H); ESI-MS: 255, 257(M++1)

reactant | dibromotriphenylphosphine | 5.76 mmol, 2.4337 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
reactant | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
reactant | (2,4-Diamino-Pteridin-6-yl)-methanol hydrobromide | 1.747 mmol, 335.8 mg | Br.NC1=NC2=NC=C(N=C2C(=N1)N)CO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
product | 6-Bromomethyl-2,4-pteridinediamine | 352 mg, Yield 60% | BrCC=1N=C2C(=NC(=NC2=NC1)N)N | C7H7BrN6
